US04154935
3,3,3-Trifluoroalanine (88 g.) is dissolved in a mixture of potassium bromide (250 g.) and 2.5 N sulfuric acid (1.240 ml.). The solution is chilled to 0° with an ice-salt bath and sodium nitrite (65.5 g.) is added in small portions over a one hour period with vigorous stirring. The reaction mixture is stirred in the cooling bath for another hour and then extracted with ether. The organic layer is washed with water, dried over magnesium sulfate and concentrated to dryness in vacuo to yield 2-bromo-3,3,3-trifluoropropanoic acid.

reactant | 3,3,3-Trifluoroalanine | 88 g | FC([C@H](N)C(=O)O)(F)F | C3H4F3NO2
reactant | sodium nitrite | 65.5 g | N(=O)[O-].[Na+]
reactant | potassium bromide | 250 g | [Br-].[K+]
solvent | sulfuric acid | 2.5 N, 1.240 ml | S(O)(O)(=O)=O | H2O4S
product | 2-bromo-3,3,3-trifluoropropanoic acid | BrC(C(=O)O)C(F)(F)F | C3H2BrF3O2
